US04833160
N-methoxy-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone
27.6 g of 3,5-di-tert-butyl-4-hydroxybenzaldehyde, 54.0 g of (N-methoxy-2-pyrrolidone-3-yl)triphenylphosphonium bromide and 33.0 ml of triethylamine were heated at 50° C. in ethanol for four hours. After distilling the ethanol off, the residue was dissolved in chloroform, washed with water and then a saturated saline solution and dried over anhydrous magnesium sulfate. After distilling the chloroform off, the residue was treated with the column chromatography, using silica gel and a carrier liquid of benzene and acetone and recrystallized with a mixture of ethyl acetate and hexane to give 26.5 g of the title compound.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 27.6 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | (N-methoxy-2-pyrrolidone-3-yl)triphenylphosphonium bromide | 54.0 g | [Br-].CON1C(C(CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | triethylamine | 33.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | N-methoxy-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-pyrrolidone | 26.5 g | CON1C(C(CC1)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H29NO3
